US05654307
A suspension of NaOMe (2.7 g, 50 mmol) in EtOH (200 mL) is added to a mixture of S-ethylisothiourea hydroiodide (11.58 g, 50 mmol), ethoxymethylidenemalononitrile (6.1 g, 50 mmol) and ethanol (250 mL) at 25° C. The reaction mixture is refluxed under N2 for 2 h, and then the solution is concentrated on a hot plate until precipitation is observed. After cooling, the solid is collected by suction filtration and is stirred in water at 25° C. Filtration and vacuum oven drying affords 4-amino-5-cyano-2-ethylthiopyrimidine (4.02 g, 45%) as a brown solid. 1H NMR δ (DMSO) 8.45 (1H, s), 7.90 (2H, brs), 3.00 (2H, q, J=7.3 Hz), 1.27 (3H, t, J=7.3 Hz).

reactant | NaOMe | 50 mmol, 2.7 g | C[O-].[Na+]
reactant | S-ethylisothiourea hydroiodide | 50 mmol, 11.58 g | I.C(C)SC(N)=N
reactant | ethoxymethylidenemalononitrile | 50 mmol, 6.1 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | EtOH | 200 mL | CCO | C2H6O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 4-amino-5-cyano-2-ethylthiopyrimidine | 4.02 g, 45% | NC1=NC(=NC=C1C#N)SCC | C7H8N4S
